US08207180B2
8-Amino-1-methyl-2-phenyl-1H-1,7,9-triaza-cyclopenta[a]naphthalene-3-carboxylic acid amide (N10)
A suspension of 8-amino-1-methyl-2-phenyl-4,5-dihydro-1H-1,7,9-triaza-cyclopenta[a]naphthalene-3-carboxylic acid amide N4 (0.25 mmol) and 10% Pd on carbon (50 mg) in 10 mL of xilene was heated to reflux for 15 days. The mixture was filtered through a celite pad and the solvent evaporated to dryness affording the title compound (85% yield). ESI (+) MS: m/z 318 (MH+). 1H NMR: 4.21 (s, 3H), 6.15 (bs, 1H), 6.76 (bs, 2H), 7.08 (bs, 1H), 7.42 (d, J=8.50, 1H), 7.52-7.65 (m, 5H), 7.83 (d, J=8.50, 1H), 9.03 (s, 1H).

reactant | 8-amino-1-methyl-2-phenyl-4,5-dihydro-1H-1,7,9-triaza-cyclopenta[a]naphthalene-3-carboxylic acid amide | NC1=NC=C2CCC3=C(C2=N1)N(C(=C3C(=O)N)C3=CC=CC=C3)C | C18H17N5O
catalyst | Pd on carbon | 50 mg | [Pd] | Pd
product | 8-Amino-1-methyl-2-phenyl-1H-1,7,9-triaza-cyclopenta[a]naphthalene-3-carboxylic acid amide | 85% yield | NC=1N=CC2=CC=C3C(=C2N1)N(C(=C3C(=O)N)C3=CC=CC=C3)C | C18H15N5O
